US07582760B2
To a solution of 1-benzyl-4-benzyloxy-1,3-dihydro-benzoimidazol-2-one (0.875 g, 2.64 mmol) in 100 ml of 1:1 ethyl acetate:THF was added palladium hydroxide (0.270 mg, 1.923 mmol). The reaction mixture was purged with hydrogen gas at 1 atm., allowed to stir at room temperature for 2 hours, and then filtered through celite. The filtrate was concentrated in vacuo to give 640 mg (2.64 mmol. quantitative) of 1-benzyl-4-hydroxy-1,3-dihydro-benzoimidazol-2-one as a white solid. MS: 241 (M+H)+.

reactant | 1-benzyl-4-benzyloxy-1,3-dihydro-benzoimidazol-2-one | 2.64 mmol, 0.875 g | C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2OCC2=CC=CC=C2)=O | C21H18N2O2
reactant | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 1.923 mmol, 0.270 mg | [OH-].[Pd+2].[OH-]
product | 1-benzyl-4-hydroxy-1,3-dihydro-benzoimidazol-2-one | 2.64 mmol, 640 mg | C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2O)=O | C14H12N2O2
